US04032322
In the manner of Example VI, 7.6 g of 5-amino-4 -cyano-3-ethylisothiazole and 8.1 g of N-(dichloromethylene) -N,N-dimethylammonium chloride were allowed to react in 100 ml of dichloromethane. The volatile materials were evaporated under reduced pressure. The residue was recrystallized twice from cyclohexane to give 2.0 g of N'-(4-cyano-3-ethyl-5-isothiazolyl)-N,N-dimethylchloroformamidine, mp 95°-97°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4 -cyano-3-ethylisothiazole | 7.6 g | NC1=C(C(=NS1)CC)C#N | C6H7N3S
reactant | N-(dichloromethylene) -N,N-dimethylammonium chloride | 8.1 g | [Cl-].ClC(=[N+](C)C)Cl
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N'-(4-cyano-3-ethyl-5-isothiazolyl)-N,N-dimethylchloroformamidine | 2.0 g | C(#N)C=1C(=NSC1N=C(N(C)C)Cl)CC | C9H11ClN4S
